US05866684
25 ml of isobutylene were condensed at -78°C. and added to a mixture of 19.4 g (114 mmol) of 3(RS),7-dimethyl-6-octenoic acid and 1 ml of concentrated sulphuric acid in 25 ml of dichloromethane. The mixture was stirred for 24 hours under a dry ice condenser. A further 20 ml of isobutylene were added and the mixture was stirred for 24 hours under a dry ice condenser. The mixture was diluted with dichloromethane, washed with saturated sodium bicarbonate solution, dried over anhydrous magnesiumsulphate and evaporated under a vacuum. The resulting oil was purified by chromatography on silica gel using ethyl acetate/hexane (1:9) for the elution. There were obtained 20.8 g of tert-butyl 3(RS),7-dimethyl-6-octenoate as a colourless oil. 1H NMR (250 MHz, CDCl3) δ: 0.9 (d, 3 H), 1.1-1.3 (m, 3 H), 1.4 (s, 9 H), 1.6 (s,3 H), 1.65, (s, 3 H), 1.8-2.2 (br m, 4 H), 5.05, (m, 1 H).

reactant | isobutylene | 25 ml | CC(C)=C | C4H8
reactant | 3(RS),7-dimethyl-6-octenoic acid | 114 mmol, 19.4 g | CC(CC(=O)O)CCC=C(C)C | C10H18O2
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | isobutylene | 20 ml | CC(C)=C | C4H8
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | tert-butyl 3(RS),7-dimethyl-6-octenoate | 20.8 g | CC(CC(=O)OC(C)(C)C)CCC=C(C)C | C14H26O2
